US09163021B2
4,4,4-Trifluoro-3-oxo-butyric acid ethyl ester (16 g, 86.4 mmol) was dissolved in acetic anhydride (33.6 g, 329.6 mmol) and triethyl orthoformate (38.4 g, 260 mmol) was added to the mixture. The resultant mixture was refluxed for 18 hours. The mixture was concentrated under reduced pressure to obtain 20 g of 2-[1-Ethoxy-meth-(E)-ylidene]-4,4,4-trifluoro-3-oxo-butyric acid ethyl ester as crude.

reactant | 4,4,4-Trifluoro-3-oxo-butyric acid ethyl ester | 86.4 mmol, 16 g | C(C)OC(CC(C(F)(F)F)=O)=O | C6H7F3O3
reactant | acetic anhydride | 329.6 mmol, 33.6 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | triethyl orthoformate | 260 mmol, 38.4 g | C(OCC)(OCC)OCC | C7H16O3
product | 2-[1-Ethoxy-meth-(E)-ylidene]-4,4,4-trifluoro-3-oxo-butyric acid ethyl ester | 20 g | C(C)OC(/C(/C(C(F)(F)F)=O)=C/OCC)=O | C9H11F3O4
